US06083961
To a solution of 2-amino-5-bromo-3-methylpyridine (300 mg) in N,N-dimethylaniline (486 mg) was added acetyl chloride (138 mg), and the mixture was stirred for 3 hours at 70° C. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform) to give 2-acetamido-5-bromo-3-methylpyridine (120 mg).

reactant | 2-amino-5-bromo-3-methylpyridine | 300 mg | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | acetyl chloride | 138 mg | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | N,N-dimethylaniline | 486 mg | CN(C1=CC=CC=C1)C | C8H11N
product | 2-acetamido-5-bromo-3-methylpyridine | 120 mg | C(C)(=O)NC1=NC=C(C=C1C)Br | C8H9BrN2O
